US04925879
A mixture of 1-[1-(4-chlorophenyl)cyclobutyl]ethanone (40 g), N,N-dimethylhydrazine (50 ml), glacial acetic acid (2 ml) and ethanol (35 ml) was heated under reflux for 78 hours. Removal of the solvent gave a residue which was distilled (104°-106°/0.1 mm Hg) to give 1- [1-(4-chlorophenyl)cyclobutyl]ethanone N,N-dimethylhydrazone.

reactant | 1-[1-(4-chlorophenyl)cyclobutyl]ethanone | 40 g | ClC1=CC=C(C=C1)C1(CCC1)C(C)=O | C12H13ClO
reactant | N,N-dimethylhydrazine | 50 ml | CN(N)C | C2H8N2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 1- [1-(4-chlorophenyl)cyclobutyl]ethanone N,N-dimethylhydrazone | CN(N=C(C)C1(CCC1)C1=CC=C(C=C1)Cl)C | C14H19ClN2
